US04487929
A solution of 0.71 g of tert.butyl 2-acetylthiomethyl-hexahydro-2-methyl1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate (diastereomer A) in 10 ml of trifluoroacetic acid was left to stand at room temperature for 1 hour. The mixture was evaporated to dryness and the residue was stirred under nitrogen with 50 ml of 50:50 mixture of water and concentrated aqueous ammonia for 2 hours. The mixture was acified to pH 1 with hydrochloric acid, saturated with sodium chloride and extracted with chloroform. The chloroform extracts were dried over sodium sulfate and evaporated. The residue was recrystallized from ethyl acetate/hexane to give 0.22 g (43%) of hexahydro-2-mercaptomethyl-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid (diastereomer A) in the form of white crystals having a melting point of 209°-211° C.

reactant | tert.butyl 2-acetylthiomethyl-hexahydro-2-methyl1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 0.71 g | C(C)(=O)SCC1(C(N2N(CCCC2C(=O)OC(C)(C)C)C1=O)=O)C | C16H24N2O5S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | hexahydro-2-mercaptomethyl-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.22 g, 43% | SCC1(C(N2N(CCCC2C(=O)O)C1=O)=O)C | C10H14N2O4S
